US05344843
A stirred mixture of 2,6-difluoro-4-hydroxybenzonitrile (3 g) in dimethylformamide (30 mL) under argon was treated with 55% sodium hydride (0.842 g), stirred for 30 minutes and treated with 2-(2-naphthalenyloxy)ethyl methanesulfonate (5.1 g). The mixture was heated at 60° C. overnight and evaporated to dryness. The residue was mixed with water and excess sodium hydroxide solution, the product was extracted twice with dichloromethane, and the organic layers were washed with water. The combined organic layers were dried (Na2SO4), filtered, and evaporated. The crude material was purified by HPLC (dichloromethane-hexane 2:1) and crystallized from dichloromethane-hexane to provide 4.3 g of 2,6-difluoro-4-[2-(2-naphthalenyloxy) ethoxy]benzonitrile as a colorless solid, mp 148°-149° C.

reactant | 2,6-difluoro-4-hydroxybenzonitrile | 3 g | FC1=C(C#N)C(=CC(=C1)O)F | C7H3F2NO
reactant | sodium hydride | 0.842 g | [H-].[Na+]
reactant | 2-(2-naphthalenyloxy)ethyl methanesulfonate | 5.1 g | CS(=O)(=O)OCCOC1=CC2=CC=CC=C2C=C1 | C13H14O4S
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2,6-difluoro-4-[2-(2-naphthalenyloxy) ethoxy]benzonitrile | 4.3 g | FC1=C(C#N)C(=CC(=C1)OCCOC1=CC2=CC=CC=C2C=C1)F | C19H13F2NO2
